US07977344B2
2-[(2-Cyclopropylethyl)oxy]-8-(methyloxy)-9-[4-(tetrahydro-2H-Pyran-4-yl)butyl]-9H-purin-6-amine
Prepared similarly to Intermediate 220 from 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 4-(4-bromobutyl)tetrahydro-2H-pyran.

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C1(CC1)CCOC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 4-(4-bromobutyl)tetrahydro-2H-pyran | BrCCCCC1CCOCC1 | C9H17BrO
product | 2-[(2-Cyclopropylethyl)oxy]-8-(methyloxy)-9-[4-(tetrahydro-2H-Pyran-4-yl)butyl]-9H-purin-6-amine | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CCCCC1CCOCC1)OC)N | C20H31N5O3
